US04424396
A mixture of 3.04 parts of 3-chloro-4-fluorobenzotrifluoride, 4.5 parts of anhydrous potassium salt of valine, 0.98 parts of tetramethyl-ammonium chloride and 24.0 parts of sulfolane solvent was charged to a reaction vessel, the mixture was heated to 125° C. and maintained thereat for about 16 hours then cooled, diluted with water and acidified to a pH of 1. The aqueous layer was extracted several times with diethyl ether. The ether layer was then washed with copious amounts of water, then dried and concentrated to yield 3.4 parts of 2-(2-chloro-4-trifluoromethylphenyl-amino)-3methylbutanoic acid.

reactant | 3-chloro-4-fluorobenzotrifluoride | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
reactant | potassium | [K] | K
reactant | valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
catalyst | tetramethyl-ammonium chloride | [Cl-].C[N+](C)(C)C
solvent | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | O | H2O
product | 2-(2-chloro-4-trifluoromethylphenyl-amino)-3methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
